US06867299B2
14 mg (0.12 mmol) of methanesulphonyl chloride were added to a solution of 40 mg (0.1 mmol) of N-[3-methoxy-4-(5-oxazolyl)phenyl-N′-[1,1-dimethyl-2-(4-piperidinyl)ethyl]oxalamide in 1 ml of dichloromethane followed by 17 mg (0.15 mmol) of N-ethylmorpholine and the mixture stirred at room temperature for 4 hours. The resulting solution was diluted with ethyl acetate, washed with 2M hydrochloric acid and saturated sodium bicarbonate solution, dried over magnesium sulphate, evaporated to dryness and the residue triturated with diethyl ether. There was obtained 23 mg of N-[2-[1-(methanesulfonyl)-4-piperidinyl]-1,1-dimethylethyl]-N′-[3-methoxy-4-(5-oxazolyl)phenyl]oxalamide as an off-white solid. MS m/e 479 [M+H]+.

reactant | methanesulphonyl chloride | 0.12 mmol, 14 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | 3-methoxy-4-(5-oxazolyl)phenyl-N′-[1,1-dimethyl-2-(4-piperidinyl)ethyl]oxalamide | COC=1C=C(C=CC1C1=CN=CO1)NC(C(=O)NC(CC1CCNCC1)(C)C)=O | C21H28N4O4
reactant | N-ethylmorpholine | 0.15 mmol, 17 mg | C(C)N1CCOCC1 | C6H13NO
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[2-[1-(methanesulfonyl)-4-piperidinyl]-1,1-dimethylethyl]-N′-[3-methoxy-4-(5-oxazolyl)phenyl]oxalamide | 23 mg | CS(=O)(=O)N1CCC(CC1)CC(C)(C)NC(C(=O)NC1=CC(=C(C=C1)C1=CN=CO1)OC)=O | C22H30N4O6S
